US07598398B2
Step A. Ethyl 5-chloro-1-[3-(trifluoromethyl)phenyl]-1H-indole-2-carboxylate
To a vial containing ethyl 5-chloroindole-2-carboxylate (1.50 g, 6.70 mmol), were added 3-iodobenzotrifluoride (1.16 mL, 8.10 mmol), potassium phosphate (2.98 g, 14.1 mmol), copper iodide (64.0 mg, 0.34 mmol), and 1,2-trans-N,N′-dimethylcyclohexane diamine (0.211 mL, 1.33 mmol), and the mixture was purged with N2. Anhydrous toluene (degassed via N2-sparge, 6.7 mL) was added, and the reaction vial was capped and placed in a pre-heated (110° C.) oil bath. The mixture was stirred vigorously for 18 h, then was allowed to cool to room temperature. The reaction mixture was filtered, rinsing with ethyl acetate, and the filtrate was concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 30%, then 30 to 100% hexanes in ethyl acetate) afforded the title compound: LCMS C, tr=2.86 min, m/z 368.1 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 7.76 (d, J=8.0 Hz, 1H), 7.71 (d, J=2.0 Hz, 1H), 7.66 (t, J=8.0 Hz, 1H), 7.60 (s, 1H), 7.53 (d, J=8.0 Hz, 1H), 7.42 (s, 1H), 7.25 (dd, J=9.0, 2.0 Hz, 1H), 6.97 (d, J=9.0 Hz, 1H), 4.22 (q, J=7.0 Hz, 2H), 1.22 (t, J=7.0 Hz, 3H).

reactant | ethyl 5-chloroindole-2-carboxylate | 6.70 mmol, 1.50 g | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | 3-iodobenzotrifluoride | 8.10 mmol, 1.16 mL | IC=1C=C(C=CC1)C(F)(F)F | C7H4F3I
reactant | potassium phosphate | 14.1 mmol, 2.98 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.34 mmol, 64.0 mg | [Cu](I)I
product | Ethyl 5-chloro-1-[3-(trifluoromethyl)phenyl]-1H-indole-2-carboxylate | ClC=1C=C2C=C(N(C2=CC1)C1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C18H13ClF3NO2
